US04084001
Heating 1-nitro-2,2-bis(methylthio)ethylene with an excess of 5-aminopentan-1-ol in ethanol gives 1,1-bis(5-hydroxypentyl)-2-nitroethylene, which may be treated with p-toluenesulphonyl chloride in pyridine and the product heated with thiourea in acetone to give 1,1-bis(5-(S-isothioureido)pentyl)-2-nitroethylene.

reactant | 1-nitro-2,2-bis(methylthio)ethylene | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | 5-aminopentan-1-ol | NCCCCCO | C5H13NO
solvent | ethanol | C(C)O | C2H6O
product | 1,1-bis(5-hydroxypentyl)-2-nitroethylene | OCCCCCC(=C[N+](=O)[O-])CCCCCO | C12H23NO4
